US04328155
To a solution of methyl 2-methoxy-5-aminobenzoate (300 mg) and dry pyridine (3 ml), methanesulfonyl chloride (210 mg) is added dropwise with ice cooling and stirring, and the resultant mixture is stirred at room temperature for 1 hour. The reaction mixture is acidified with 6 N hydrochloric acid and shaken with methylene chloride. The organic layer is washed with water, dried over sodium sulfate, and evaporated under reduced pressure to remove the methylene chloride. The residue is chromatographed on a column of silica gel, which is eluted with methylene chloride--2% methanol/methylene chloride, and the eluate is evaporated to remove the solvent. The residue is recrystallized from ethyl acetate/isopropyl ether to give methyl 2-methoxy-5-methanesulfonamidobenzoate (381 mg) as colorless prisms melting at 84° to 86° C.

reactant | methyl 2-methoxy-5-aminobenzoate | 300 mg | COC1=C(C(=O)OC)C=C(C=C1)N | C9H11NO3
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 210 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 2-methoxy-5-methanesulfonamidobenzoate | 381 mg | COC1=C(C(=O)OC)C=C(C=C1)NS(=O)(=O)C | C10H13NO5S
